US08487094B2
To a solution of 2-phenylcyclopropanecarboxylic acid (1.0 g, 6.17 mmol) in dry toluene (20 mL) was added triethylamine (934 mg, 9.26 mmol) and DPPA (2.0 g, 7.41 mmol) under N2, and the reaction mixture was refluxed for 3 h. The solution was concentrated to give (2-isocyanatocyclopropyl)benzene (800 mg), which was used for the next step without further purification.

reactant | 2-phenylcyclopropanecarboxylic acid | 6.17 mmol, 1.0 g | C1(=CC=CC=C1)C1C(C1)C(=O)O | C10H10O2
reactant | triethylamine | 9.26 mmol, 934 mg | C(C)N(CC)CC | C6H15N
reactant | DPPA | 7.41 mmol, 2.0 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (2-isocyanatocyclopropyl)benzene | 800 mg | N(=C=O)C1C(C1)C1=CC=CC=C1 | C10H9NO
